Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10].[O:1]=[C:2]=[O:3]>>[O:1]=[C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10],0.632948059979
[O:1][C:2]#[C:3][H:4].[O:5][H:6]>>[O:1]=[C:2]=[C:3]([H:4])[O:5][H:6],-5.08187475199
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:16].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],4.56667637308
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7][O:8][C:9]([H:10])([H:11])[H:12]>>[C:4]([H:5])[O:6][C:7][O:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2][H:3],8.11435057871
[C:2][O:3][H:4].[H:1]>>[H:1][C:2][O:3][H:4],-3.49814037809
[C:13]([H:14])[H:15].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11][H:12]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])=[C:13]([H:14])[H:15],-7.357811607719999
[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6][O:7][C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-3.75421068136
[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11]>>[C:10][H:11].[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8][H:9],8.928394260510002
[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])=[C:4]=[O:5],-0.32857734304
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]=[O:11]>>[C:1]#[C:2][C:3]([H:4])([H:5])[H:6].[C:7]([H:8])([H:9])=[C:10]=[O:11],0.83846845361
[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[C:8](=[C:9][H:10])[O:11][H:12]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9][H:10])[O:11][H:12],-0.965484145176
[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]=[C:9]([H:10])[H:11]>>[C:5]([H:6])[O:7][C:8]=[C:9]([H:10])[H:11].[H:1][C:2]#[C:3][H:4],1.72647437122
[C:1]#[C:2][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:3]>>[C:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-3.9607322658
[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]=[C:3]([H:4])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:5],1.56899913072
[C:6]([H:7])[H:8].[H:1][C:2]#[C:3][C:4](=[O:5])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]#[C:3][C:4]([O:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-2.7693684009
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C@:9]([H:10])([C:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:9]([H:10])(=[C:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[H:8],0.937573921259
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7].[O:8][H:9]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7][O:8][H:9],-6.528021504730001
[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[H:9]>>[O:1]=[C:2]([H:3])[O:4][C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-3.89287676476
[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:14].[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[C:15]([H:16])([H:17])[H:18],4.39714143786
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][H:8]>>[H:1][C:2]#[C:3][C:4]([H:5])[H:6].[O:7][H:8],4.69703526169
[H:1]/[C:2]([O:3][C:4][C:5]([H:6])([H:7])[H:8])=[C:9](/[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:2](\[O:3][C:4][C:5]([H:6])([H:7])[H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14].[H:1],5.13698046671
[C:8][O:9][H:10].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])[H:7]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][O:9][H:10],-2.77382689363
[H:1][C:2]=[C:3]([O:4][C:5][O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:3]([O:4][C:5][O:6][H:7])[C:8]([H:9])([H:10])[H:11].[H:1][C:2],7.62093267098
[H:13].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6]/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13],-1.6444320009399995
[H:1][C:2]=[C:3]([H:4])[O:5][O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:11].[H:1][C:2]=[C:3]([H:4])[O:5][O:6][C:7]([H:8])=[C:9][H:10],5.12330391495
[H:1][C:2]([H:3])[C:4]#[C:11][C:5][O:6][C:7]([H:8])([H:9])[H:10]>>[H:1][C:2]([H:3])[C:4]1=[C:5]([O:6][C:7]([H:8])([H:9])[H:10])[C:11]1,0.6954962243
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[C:11]([H:12])=[C:13]([H:14])[H:15].[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])=[C:8]([H:9])[H:10],1.86339745559
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]#[C:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:3],2.0952072786
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])([H:12])[H:13]>>[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2],8.7824321191
